US08471005B2
N-(3-{2-[4-(4-Ethyl-morpholin-2-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}phenyl)methanesulfonamide
The titled compound was prepared in analogous fashion as Example 113 using N-[3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-methanesulfonamide and 4-(4-ethyl-morpholin-2-yl)-phenylamine to give N-(3-{2-[4-(4-ethyl-morpholin-2-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}phenyl)methanesulfonamide as a yellow foam (47.3, 31.4% yield). LCMS (E/I+) 493 (M+H). 1H NMR (400 MHz, CDCl3) δ 8.71 (s, 1H), 8.01 (s, 1H), 7.89 (d, 1H, J=7.8 Hz), 7.58 (d, 2H, J=8 Hz), 7.49 (t, 1H, J=7.8 Hz), 7.36 (m, 3H), 7.02 (m, 1H), 6.94 (s, 1H), 6.84 (s, 1H), 4.57 (d, 1H, J=10.2 Hz), 4.05 (d, 1H, J=11.4 Hz), 3.85 (t, 1H, J=11.4 Hz), 3.03 (s, 3H), 2.98 (d, 2H, J=11.6 Hz), 2.83 (d, 1H, J=11.5 Hz), 2.47 (q, 2H, J=7 Hz), 2.23 (t, 1H, J=11.5 Hz), 2.08 (t, 1H, J=10.5 Hz), 1.12 (t, 3H, J=7 Hz).

reactant | N-[3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-methanesulfonamide | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=C(C=CC2)NS(=O)(=O)C | C14H14N4O3S2
reactant | 4-(4-ethyl-morpholin-2-yl)-phenylamine | C(C)N1CC(OCC1)C1=CC=C(C=C1)N | C12H18N2O
product | N-(3-{2-[4-(4-ethyl-morpholin-2-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}phenyl)methanesulfonamide | C(C)N1CC(OCC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=C(C=CC2)NS(=O)(=O)C | C25H28N6O3S
